US08895571B2
Step B: ethyl 2-methyl-6-oxo-1,6-dihydropyridine-3-carboxylate
5-Ethyl 1-methyl (2E,4Z)-4-(1-aminoethylidene)pent-2-enedioate (10 g, 50 mmol) and DMF (30 mL) were mixed in one 100 mL flask, and the mixture was stirred at 165° C. for 14 hrs. The reaction mixture was cooled to room temperature, then filtered to give the crude product, which was washed with DMF and small amount of methanol to give 5 g (60% yield) of the pure product. LC-MS found: 182.1 (M+H)+.

reactant | 5-Ethyl 1-methyl (2E,4Z)-4-(1-aminoethylidene)pent-2-enedioate | 50 mmol, 10 g | N\C(\C)=C(\C=C\C(=O)OC)/C(=O)OCC | C10H15NO4
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | ethyl 2-methyl-6-oxo-1,6-dihydropyridine-3-carboxylate | 5 g, 60% yield | CC=1NC(C=CC1C(=O)OCC)=O | C9H11NO3
